US09169254B2
Sodium borohydride (89 mg, 2.35 mmol) was added to a solution of 4-(2-oxo-ethyl)-cyclohexanecarboxylic acid benzyl ester (306 mg, 1.18 mmol) in methanol (6 ml) at 0° C. The mixture was stirred at 0° C. for one hour, and then quenched with a saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 4-(2-hydroxy-ethyl)-cyclohexanecarboxylic acid benzyl ester (299 mg).

reactant | Sodium borohydride | 2.35 mmol, 89 mg | [BH4-].[Na+]
reactant | 4-(2-oxo-ethyl)-cyclohexanecarboxylic acid benzyl ester | 1.18 mmol, 306 mg | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CC=O | C16H20O3
solvent | methanol | 6 ml | CO | CH4O
product | 4-(2-hydroxy-ethyl)-cyclohexanecarboxylic acid benzyl ester | 299 mg | C(C1=CC=CC=C1)OC(=O)C1CCC(CC1)CCO | C16H22O3
